US08372866B2
d) 2-(benzo[1,3]dioxol-5-yl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one
Prepared analogously to Example 5d) starting from 2-(benzo[1,3]dioxol-5-yl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 85%; TLC (9/1 Chloroform/Methanol) Rf: 0.57.

reactant | 2-(benzo[1,3]dioxol-5-yl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one | O1COC2=C1C=CC(=C2)C=2OC1=C(C(C2O)=O)C=C(C=C1)NC(C)=O | C18H13NO6
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(benzo[1,3]dioxol-5-yl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | Yield: 85% | O1COC2=C1C=CC(=C2)C=2OC1=C(C(C2OCC2=CC=CC=C2)=O)C=C(C=C1)NC(C)=O | C25H19NO6
